US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-guanidinobenzoate.
100 Milliliters of 20% hydrous pyridine was added to 3.0 g of 4-guanidinobenzoic acid.methanesulfonate, 3.0 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride and 4.5 g of DCC, followed by stirring for 2 hours under cooling with ice and then 2 days at room temperature. The precipitate was filtered and 1 g of active carbon was added to the filtrate, followed by stirring for 30 minutes under cooling with ice, and insoluble matter was filtered off. The filtrate was slowly added dropwise to 4 liters of ether under cooling with ice, followed by stirring for 2 hours. The precipitate was collected by filtration and washed with 100 ml of acetone to obtain a crude product. Then, the product was dissolved in 150 ml of methanol. Thereafter, 2.5 g of active carbon was added to the solution, followed by stirring for 30 minutes under cooling with ice, and insoluble matter was filtered off. The filtrate was slowly added dropwise to 1 liter of acetone under cooling with ice, followed by stirring for 2 hours. The precipitate was collected by filtration to obtain 2.9 g of the desired product.

reactant | 4-guanidinobenzoic acid | 3.0 g | N(C(=N)N)C1=CC=C(C(=O)O)C=C1 | C8H9N3O2
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 3.0 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 4.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methanol | 150 ml | CO | CH4O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-guanidinobenzoate | 2.9 g | N(C(=N)N)C1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | C21H20N6O3
